US08207350B2
1-(2-amino-benzothiazol-6-yl)-ethanone
4-Aminoacetophenone (3.0 g, 22.19 mmol) and potassium thiocyanate (8.87 g, 88.78 mmol) were dissolved in acetic acid (35 mL) and stirred together until they dissolved (˜15-20 min). The solution was then treated with a solution of bromine (1.14 mL, 22.19 mmol) dissolved in acetic acid (15 mL) by slow addition over 20 min. The reaction was then stirred at room temperature for 19 hr and then poured into H2O (100 mL). The solution was then basified to pH=9-10 with NH4OH. The resulting precipitate was collected by vacuum filtration. The solids were then dissolved in hot ethyl acetate and filtered again. The filtrate was concentrated in vacuo to give 3.35 g (76%) of the title compound. 1H NMR (300 MHz, DMSO-d6) δ ppm 8.32 (d, J=1.47 Hz, 1H) 7.91 (s, 2H) 7.83 (dd, J=8.46, 1.84 Hz, 1H) 7.37 (d, J=8.46 Hz, 1H) 2.55 (s, 3H). MS m/z (DCI) 193.0 (M+H)+.

reactant | 4-Aminoacetophenone | 22.19 mmol, 3.0 g | CC(=O)C1=CC=C(C=C1)N | C8H9NO
reactant | potassium thiocyanate | 88.78 mmol, 8.87 g | [S-]C#N.[K+]
reactant | bromine | 22.19 mmol, 1.14 mL | BrBr | Br2
reactant | NH4OH | [NH4+].[OH-]
solvent | acetic acid | 35 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
solvent | H2O | 100 mL | O | H2O
product | 1-(2-amino-benzothiazol-6-yl)-ethanone | 3.35 g, 76% | NC=1SC2=C(N1)C=CC(=C2)C(C)=O | C9H8N2OS
